datasets/10k_Mayr_OG.csv
SMILES Labelled
C[C:63]1=[CH:62][CH:61]=[N:10][C:71]2=[C:72]1C=CC=C2.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:63]1=[CH:62][CH:61]=[N+:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[C:71]2=[C:72]1C=CC=C2 10=20
"C1C[C:63]2=[C:62]([CH:11]=[CH:10]1)[CH:67]=[CH:66][CH:65]=[CH:64]2.CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([CH:10]2CC[C:63]3=[C:62]([CH+:11]2)[CH:67]=[CH:66][CH:65]=[CH:64]3)[N-:21]1 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[N:12]1[CH:11]=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][C:64]([B-:82](F)(F)F)=[CH:63]2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[N+:12](C)[C:61]3=[C:62]2[CH:63]=[C:64]([B-:82](F)(F)F)[CH:65]=[CH:66]3)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH2:62][CH:11]=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH2:62][CH+:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]1 10,11=10,20"
"C/[CH:10]=[CH:11]/[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10](C)[CH+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C/[CH:10]=[CH:11]\C.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10](C)[CH+:11]C)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;20,21=21"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.C[N:12]1[N:11]=[N:10][C:61]2=[C:62]1C=CC=C2>>C[N+:12]1=[N:11][N:10]([CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)[C:61]2=[C:62]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.C[N:12]1C2=C(C=CC=C2)[S:62]/[C:11]1=[CH:10]/C1=CC=CC=C1>>CC(C)(C1=C(I)C=CC=C1)[O-:21].C[N+:12]1=[C:11]([CH:10](C2=CC=CC=C2)[S:20]C(F)(F)F)[S:62]C2=C1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.N#C[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.[H:10][CH:11]1[CH:12]=[CH:13][CH2:64][CH:63]=[CH:62]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.[CH:11]1=[CH:12][CH+:13][CH2:64][CH:63]=[CH:62]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62]>>CC[O:50][C:22](=[CH:21][CH:20]([CH:10]([C:61](=[O:62])[O:82]CC)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P:11](C2=CC=CC=C2)(C2=CC=CC=C2)=[CH:10][C:61](C2=CC=CC=C2)=[O:62])C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([P+:11](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:61](C2=CC=CC=C2)=[O:62])[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:11]1=[CH:10]CCC1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[CH:10]2CCC[C+:11]2C)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)CCO1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].FC(F)(F)[S:20][N:10]1[CH:11]=[CH:12][C:13](=[N+:14]2CCOCC2)[CH:62]=[CH:61]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
